US07192943B2
To a stirred solution of phenyl [1-(2-hydroxyethyl)-5-(tritylamino)-1H-pyrazol-4-yl]carbamate (1 g) in N,N-dimethylformamide (10 ml) were added di-tert-butyl (2-amino-1,3-propanediyl)biscarbamate (631 mg) and triethylamine (0.83 ml), and the mixture was stirred at room temperature for 3 hours. Water was added to the reaction mixture and the whole mixture was extracted with ethyl acetate. The extract was washed with water and brine and dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave a crude product, which was triturated with ethyl acetate-diisopropyl ether (1:3). The resulting solid was collected by filtration to give di-tert-butyl {2-[({[1-(2-hydroxyethyl)-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1,3-propanediyl}biscarbamate (435 mg).

reactant | phenyl [1-(2-hydroxyethyl)-5-(tritylamino)-1H-pyrazol-4-yl]carbamate | 1 g | OCCN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(OC1=CC=CC=C1)=O | C31H28N4O3
reactant | di-tert-butyl (2-amino-1,3-propanediyl)biscarbamate | 631 mg | NC(CNC(OC(C)(C)C)=O)CNC(OC(C)(C)C)=O | C13H27N3O4
reactant | triethylamine | 0.83 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | di-tert-butyl {2-[({[1-(2-hydroxyethyl)-5-(tritylamino)-1H-pyrazol-4-yl]amino}carbonyl)amino]-1,3-propanediyl}biscarbamate | 435 mg | OCCN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)NC(=O)NC(CNC(OC(C)(C)C)=O)CNC(OC(C)(C)C)=O | C38H49N7O6
